US07432258B2
N1-[(1R)-1-(4-bromophenyl)-2-(1-pyrrolidinyl)ethyl]-N2-(cyanomethyl)-N2-(3,4-dichlorophenyl)-N1-methylglycinamide (6.1 g, crude) was dissolved in 25 mL of tetrahydrofuran and treated with a solution of LiOH (3.14 g, 74.9 mmol) suspended in 10.8 mL of water. The reaction was stirred vigorously and allowed to reflux at 77° C. for 24 hours before it was determined to be complete by LCMS (Eclipse XDB C18 (4.6×250 mm); trifluoroacetic acid: 1-99% B for 10 min, ES) Rt=7.8 min and m/e 543 [M+1]+. The solvent was removed by rotary evaporation and the crude residue was purified by silica gel chromatography (330 g Redisep column, silica, 40 um, 60 Å, 90 mL/min, A: methylene chloride, B: methanol, B: 0% for 5 min, 10% for 60 min; detection at 214 nm) to give 2-[(2-amino-2-oxoethyl)(3,4-dichlorophenyl)amino]-N-[(1R)-1-(4-bromophenyl)-2-(1-pyrrolidinyl)ethyl]-N-methylacetamide (2.82 g, 5.2 mmol). MS (ES) m/e 543 [M+H]+.

reactant | N1-[(1R)-1-(4-bromophenyl)-2-(1-pyrrolidinyl)ethyl]-N2-(cyanomethyl)-N2-(3,4-dichlorophenyl)-N1-methylglycinamide | 6.1 g | BrC1=CC=C(C=C1)[C@H](CN1CCCC1)N(C(CN(C1=CC(=C(C=C1)Cl)Cl)CC#N)=O)C | C23H25BrCl2N4O
reactant | LiOH | 74.9 mmol, 3.14 g | [Li+].[OH-]
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
solvent | water | 10.8 mL | O | H2O
product | 2-[(2-amino-2-oxoethyl)(3,4-dichlorophenyl)amino]-N-[(1R)-1-(4-bromophenyl)-2-(1-pyrrolidinyl)ethyl]-N-methylacetamide | 5.2 mmol, 2.82 g | NC(CN(CC(=O)N(C)[C@@H](CN1CCCC1)C1=CC=C(C=C1)Br)C1=CC(=C(C=C1)Cl)Cl)=O | C23H27BrCl2N4O2
